US06822100B2
Phosphorous oxychloride (0.23 g, 1.47 mmol) was added to dimethylformamide (2 mL) at room temperature with stirring. After 15 min, [2-(1H-indol-6-yl)-cyclopropylmethyl]-dimethyl-amine (0.35 g, 1.64 mmol) in DMF (3 mL) was added dropwise. After 20 h, the reaction was quenched with ice and 1 N NaOH. The solution was extracted with methylene chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give 6-(2-dimethylaminomethyl-cyclopropyl)-1H-indole-3-carbaldehyde of an oil (0.25 g, 63%) that was used for the next reaction without purification. 1H NMR (CDCl3): δ 9.84 (s, 1H), 8.14 (d, J=8.4 Hz, 1H), 7.97 (s, 1H), 7.14 (d, J=8.4 Hz, 1H), 7.05 (s, 1H), 2.64 (s, 1H), 2.56 (s, 7H), 1.91 (m, 1H), 1.27 (m, 1H), 1.06 (m, 1H), and 0.92 (m, 1H).

reactant | Phosphorous oxychloride | 1.47 mmol, 0.23 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | [2-(1H-indol-6-yl)-cyclopropylmethyl]-dimethyl-amine | 1.64 mmol, 0.35 g | N1C=CC2=CC=C(C=C12)C1C(C1)CN(C)C | C14H18N2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 6-(2-dimethylaminomethyl-cyclopropyl)-1H-indole-3-carbaldehyde | CN(C)CC1C(C1)C1=CC=C2C(=CNC2=C1)C=O | C15H18N2O
